US04596879
104.15 g of 2.2-dimethyl-1,3-propanediol (1 mol) are suspended in 200 ml of methylene chloride in a 500 ml four-necked flask which is provided with a stirrer, a reflux condenser, a thermometer and a dropping funnel. 125 g (1.05 mol) of thionyl chloride are added dropwise within 1 hour while stirring at 5°-10° C. The reaction mixture is then warmed to 40° C. for 3 hours. The thusobtained oil is washed with 50 ml of water and then with 50 ml of NaHCO3 solution and dried over Na2SO4. After removing the majority of methylene chloride on a rotary evaporator the residue is distilled at 85°-87° C./30 mmHg over a 10 cm isolated column filled with Raschig rings. There are obtained 142.5 g of 5,5-dimethyl-1,3,2-dioxathiane 2-oxide in the form of a colourless oil.

reactant | 2.2-dimethyl-1,3-propanediol | 1 mol, 104.15 g | CC(CO)(CO)C | C5H12O2
reactant | thionyl chloride | 1.05 mol, 125 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5,5-dimethyl-1,3,2-dioxathiane 2-oxide | 142.5 g | CC1(COS(OC1)=O)C | C5H10O3S
